US07612079B2
1-[9-Cyclopentyl-6-(3,4-dimethoxy-benzylamino)-9H-purin-2-yl]-piperidin-3-ol
(2-Chloro-9-cyclopentyl-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine (446 mg, 1.15 mmol), 3-hydroxypiperidine hydrochloride (791 mg, 5.75 mmol) and K2CO3 (1.19 mg, 8.63 mmol) were suspended in 2,5-lutidine (10 mL) and the mixture was heated at 180° C. for 4 h. After cooling, CH2Cl2 (50 mL) was added and the solution was extracted with brine (2×15 mL). The organic fraction was dried over MgSO4, filtered and evaporated. The residue was purified by flash chromatography (95:5 CH2Cl2/MeOH) to afford the title compound as an off-white foam (427 mg, %). Anal. RP-HPLC (Phenomenex Jupiter, 5 μ, C18, 300 Å, 4.6×250 mm; 1 mL/min): tR=18.4 min (10-70% MeCN in 0.1% aq CF3COOH over 20 min); tR=16.0 min (35-45% MeCN in 0.1% aq CF3COOH over 20 min); purity>95% (λ=214 nm). DE-MALDI-TOF MS: [M+H]+=453.9 (C24H32N6O3=452.6).

reactant | (2-Chloro-9-cyclopentyl-9H-purin-6-yl)-(3,4-dimethoxy-benzyl)-amine | 1.15 mmol, 446 mg | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=CC(=C(C=C1)OC)OC | C19H22ClN5O2
reactant | 3-hydroxypiperidine hydrochloride | 5.75 mmol, 791 mg | Cl.OC1CNCCC1
reactant | K2CO3 | 8.63 mmol, 1.19 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | 2,5-lutidine | 10 mL | N1=C(C=CC(=C1)C)C | C7H9N
product | 1-[9-Cyclopentyl-6-(3,4-dimethoxy-benzylamino)-9H-purin-2-yl]-piperidin-3-ol | 427 mg | C1(CCCC1)N1C2=NC(=NC(=C2N=C1)NCC1=CC(=C(C=C1)OC)OC)N1CC(CCC1)O | C24H32N6O3
